US07943613B2
Sodium methoxide (2.5 mg, 0.045 mmol) was added to 1 M solution of lithium aluminum hydride in tetrahydrofuran (1.43 mL, 1.43 mmol). The mixture was cooled to 0° C. and a solution of 3-(6-phenylpyridin-3-yl)prop-2-yn-1-ol (300 mg, 1.43 mmol) in tetrahydrofuran (6 mL) was slowly added. The reaction mixture was stirred at 0° C. for 2 h and then at ambient temperature for 2 h. The reaction mixture was cooled to 0° C. again, ethyl acetate (0.24 mL, 2.4 mmol) was added and the mixture was stirred for further 10 min without cooling. 1,4-Diiodobenzene (527 mg, 1.60 mmol), anhydrous zinc chloride (108 mg, 1.23 mmol), tris(dibenzylideneacetone)dipalladium chloroform complex (29.5 mg, 0.029 mmol) and tri-(2-furyl)phosphine (26.6 mg, 0.118 mmol) were added, the mixture was degassed and kept under argon. The mixture was heated at 60° C. for 20 h; methanol (0.7 mL) was added and the mixture was stirred for additional 1 h. The reaction mixture was diluted with ether (30 mL) and subsequently saturated aqueous solution of ammonium chloride (0.36 mL) was added. The formed suspension was filtered through a paddle of silica gel and the paddle was thoroughly washed with ethyl acetate. The combined filtrates were concentrated in vacuo and the residue was submitted to column chromatography (silica gel Fluka 60, hexanes/ethyl acetate 1:1) affording (E)-3-(4-iodophenyl)-3-(6-phenylpyridin-3-yl)prop-2-en-1-ol.

reactant | Sodium methoxide | 0.045 mmol, 2.5 mg | C[O-].[Na+]
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(6-phenylpyridin-3-yl)prop-2-yn-1-ol | 1.43 mmol, 300 mg | C1(=CC=CC=C1)C1=CC=C(C=N1)C#CCO | C14H11NO
reactant | ethyl acetate | 2.4 mmol, 0.24 mL | C(C)(=O)OCC | C4H8O2
reactant | 1,4-Diiodobenzene | 1.60 mmol, 527 mg | IC1=CC=C(C=C1)I | C6H4I2
reactant | tri-(2-furyl)phosphine | 0.118 mmol, 26.6 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
catalyst | zinc chloride | 1.23 mmol, 108 mg | [Cl-].[Zn+2].[Cl-]
solvent | tetrahydrofuran | 1.43 mmol, 1.43 mL | O1CCCC1 | C4H8O
product | (E)-3-(4-iodophenyl)-3-(6-phenylpyridin-3-yl)prop-2-en-1-ol | IC1=CC=C(C=C1)\C(=C/CO)\C=1C=NC(=CC1)C1=CC=CC=C1 | C20H16INO
